US07601722B2
The clear oil, 1-(tert-butylamino)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)butan-2-one-carbamic acid tert-butyl ester, was dissolved in diethyl ether and methanol and 4N HCl in dioxane was added a precipitate formed. The reaction was filtered to afford 12 mg of 1-(tert-butylamino)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)butan-2-one hydrochloride as a white solid.

reactant | 1-(tert-butylamino)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)butan-2-one carbamic acid tert-butyl ester | C(C)(C)(C)NCC(CCN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O)=O.C(C)(C)(C)OC(N)=O
reactant | methanol | CO | CH4O
reactant | HCl | 4N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(tert-butylamino)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)butan-2-one hydrochloride | 12 mg | Cl.C(C)(C)(C)NCC(CCN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O)=O | InChI=1S/C20H25N3O3S.ClH/c1-20(2,3)21-15-17(24)13-14-22-18-11-7-8-12-19(18)23(27(22,25)26)16-9-5-4-6-10-16;/h4-12,21H,13-15H2,1-3H3;1H
